US08633237B2
d) (S)-benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-2-ylcarbamate
To (S)-benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-ylcarbamate (5.72 mmol, 1.7 g) was added DCM (34.9 mL) followed by sulfurous dichloride (11.43 mmol, 1.360 g). The reaction was stirred for one hour before removing the solvent in vacuo. DCM was added (5 mL) before removing the solvent in vacuo, this procedure was followed a further twice to give a yellow solid (1.8 g, 100%). 1H NMR (400 MHz, CDCl3) δ 2.81 (m, 2H), 3.30 (m, 2H), 4.56 (m, 3H), 4.95 (brs, 1H), 5.12 (s, 2H), 7.19 (d, 2H), 7.25 (m, 1H), 7.33 (m, 5H).

reactant | (S)-benzyl 5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 5.72 mmol, 1.7 g | OCC=1C=C2C[C@H](CC2=CC1)NC(OCC1=CC=CC=C1)=O | C18H19NO3
reactant | sulfurous dichloride | 11.43 mmol, 1.360 g | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 34.9 mL | C(Cl)Cl | CH2Cl2
product | (S)-benzyl 5-(chloromethyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 1.8 g, 100% | ClCC=1C=C2C[C@H](CC2=CC1)NC(OCC1=CC=CC=C1)=O | C18H18ClNO2
